US04613609
Combine 5.35 g (0.32 mole) of (4-chlorobutyl)benzene and 5.27 g (0.32 mole) 1-heptyl-1H-imidazole, stir the mixture at approximately 145° C. for about 30 hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile: ammonium hydroxide 9:1). At the completion of the reaction, dissolve the resulting cooled oil in methanol and evaporate the solvent. Dissolve this product in 125 ml H2O and extract the solution with 5×100 ml hexane. Then extract the aqueous with 2×50 ml methylene chloride. Combine the methylene chloride layers and wash with 1×100 ml saturated aqueous NaCl solution. Dry the methylene chloride extracts over sodium sulfate. Evaporate the solvents to obtain 1-heptyl-3-(4-phenylbutyl)imidazolium chloride as an oil. Dissolve the oil in approximately 35 ml acetone, and to it add an equimolar amount of phthalic acid. Remove the solvents in vacuo to obtain the title compound, which may be recrystallized from acetone.

reactant | (4-chlorobutyl)benzene | 0.32 mole, 5.35 g | ClCCCCC1=CC=CC=C1 | C10H13Cl
reactant | 1-heptyl-1H-imidazole | 0.32 mole, 5.27 g | C(CCCCCC)N1C=NC=C1 | C10H18N2
solvent | methanol | CO | CH4O
product | 1-heptyl-3-(4-phenylbutyl)imidazolium chloride | [Cl-].C(CCCCCC)[N+]1=CN(C=C1)CCCCC1=CC=CC=C1 | InChI=1S/C20H31N2.ClH/c1-2-3-4-5-10-15-21-17-18-22(19-21)16-11-9-14-20-12-7-6-8-13-20;/h6-8,12-13,17-19H,2-5,9-11,14-16H2,1H3;1H/q+1;/p-1
